US09102637B2
5-[4-(2-hydroxyethylamino)benzamido]-2-(naphthalen-2-ylamino)thiazole-4-carboxamide
A solution of 5-(4-fluorobenzamido)-2-(naphthalen-2-ylamino)thiazole-4-carboxamide (0.10 g, 0.25 mmol) and 2-aminoethanol (0.15 g, 2.46 mmol) in NMP (1 mL) was treated using a microwave synthesizer for 1 hr (CEM Corp., 180° C.). The, reaction mixture was diluted with water (3 mL), and the resulting solids were collected by filtration. The solids were washed with water, and dried to give 0.035 g (31% yield) of the titled compound.

reactant | 5-(4-fluorobenzamido)-2-(naphthalen-2-ylamino)thiazole-4-carboxamide | 0.25 mmol, 0.10 g | FC1=CC=C(C(=O)NC2=C(N=C(S2)NC2=CC3=CC=CC=C3C=C2)C(=O)N)C=C1 | C21H15FN4O2S
reactant | 2-aminoethanol | 2.46 mmol, 0.15 g | NCCO | C2H7NO
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | water | 3 mL | O | H2O
product | 5-[4-(2-hydroxyethylamino)benzamido]-2-(naphthalen-2-ylamino)thiazole-4-carboxamide | 0.035 g, 31% yield | OCCNC1=CC=C(C(=O)NC2=C(N=C(S2)NC2=CC3=CC=CC=C3C=C2)C(=O)N)C=C1 | C23H21N5O3S
